US08809361B2
1″-(2-Fluoro-2-methyl-propyl)-5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
Bis(2-methoxyethyl)sulfur trifluoride (50% in toluene; 40 μL) is added to a solution of 1″-(2-hydroxy-2-methyl-propyl)-5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] (20 mg) in dichloromethane (5 mL) chilled in an ice bath. The solution is stirred in the cooling bath for 2 h before another portion of bis(2-methoxyethyl)sulfur trifluoride (50% in toluene; 20 μL) is added. After stirring for 3 h, a few drops of methanol and water are added. The resulting solution is concentrated and the residue is purified by HPLC on reversed phase (acetonitrile/water/trifluoroacetic acid) to give the title compound as bis(trifluoroacetic acid) salt. LC (method 1): tR=0.76 min; Mass spectrum (ESI+): m/z=459 [M+H]+.

reactant | Bis(2-methoxyethyl)sulfur trifluoride | 40 μL | COCC[S](CCOC)(F)(F)F | C6H14F3O2S
reactant | 1″-(2-hydroxy-2-methyl-propyl)-5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | 20 mg | OC(CN1CCC2(CC1)CC1(C2)CC=2C(=CN=C(C2)C2=CC=C(C=C2)S(=O)(=O)C)O1)(C)C | C25H32N2O4S
reactant | bis(2-methoxyethyl)sulfur trifluoride | 20 μL | COCC[S](CCOC)(F)(F)F | C6H14F3O2S
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | methanol | a few drops | CO | CH4O
product | 1″-(2-Fluoro-2-methyl-propyl)-5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | FC(CN1CCC2(CC1)CC1(C2)CC=2C(=CN=C(C2)C2=CC=C(C=C2)S(=O)(=O)C)O1)(C)C | C25H31FN2O3S
